US04113940
Zinc powder (2.4 g) was added under ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-(2-phenylacetamido)-3-cephem-4-carboxylate (1.85 g) in a mixture of dimethylformamide (10 ml) and acetic acid (3 ml), and the mixture was stirred for 2 hours, after which the reaction mixture was filtered. The filtrate was poured into a mixture of ethyl acetate (50 ml), ice-water (50 ml) and 10% hydrochloric acid (2 ml), and then the ethyl acetate layer was separated. The aqueous layer was further extracted with ethyl acetate (10 ml). The ethyl acetate layer was combined, and the combined solution was in turn washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, after which the solvent was distilled off. The residue was crystallized by adding a small quantity of acetonitrile and the precipitated crystals were collected by filtration and dried to give colorless crystals of 2-methyl-7-(2-phenylacetamido)-3-cephem-4-carboxylic acid (1.2 g), mp 109° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-(2-phenylacetamido)-3-cephem-4-carboxylate | 1.85 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H17Cl3N2O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 2.4 g | [Zn] | Zn
product | 2-methyl-7-(2-phenylacetamido)-3-cephem-4-carboxylic acid | 1.2 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C16H16N2O4S
